US07745496B2
A mixture of potassium (E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoate (2.07 g; 9 mmol), obtained in the previous step, DMF (8.3 g), KI (0.5 g) and a 20% w/w solution (82.5 g) of 4-bromobutylnitrate (16.5 g; 16.7 mmol) in CH2Cl2 is heated under stirring to 40° C. and kept at this temperature under stirring for 136 h. After work up, (E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoic acid 4-(nitrooxy)butyl ester was obtained in 70% yield.

reactant | potassium (E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoate | 9 mmol, 2.07 g | OC1=C(C=C(C=C1)/C=C/C(=O)[O-])OC.[K+]
reactant | DMF | 8.3 g | CN(C)C=O | C3H7NO
reactant | 4-bromobutylnitrate | 16.7 mmol, 82.5 g | BrCCCCO[N+](=O)[O-] | C4H8BrNO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoic acid 4-(nitrooxy)butyl ester | 70% yield | [N+](=O)([O-])OCCCCOC(\C=C\C1=CC(=C(C=C1)O)OC)=O | C14H17NO7
